US06794515B2
4.00 g (S)-2-methylcysteine hydrochloride (23.3 mmol,1.0 meq) and 3.14 g 2,4-dihydroxy benzonitrile (23.3 mmol, 1.0 meq) were suspended in 40 mL ethanol. After degassing this mixture with nitrogen (30 min) 4.95 g triethylamine (6.8 mL, 48.9 mmol, 2.05 meq) were added. The obtained suspension was heated under reflux in an atmosphere of nitrogen for 20 hours and then cooled to room temperature. From this suspension ethanol was evaporated under reduced pressure until an oil (20% of the initial volume) was obtained. This oil was dissolved in 50 mL water. The solution was adjusted to pH 7.5 with 1.20 ml 20% KOH and was extracted two times each with 20 mL methyl t-butyl ether (MTBE). The aqueous layer was separated, adjusted with 20% KOH to pH 11 and again extracted two times each with 20 mL MTBE. After separating the aqueous layer the pH was set with concentrated HCl to 7.5 and traces of MTBE were distilled off. Then the aqueous solution was acidified with 1.50 ml concentrated HCl to pH 1.5. The product precipitated. This suspension was stirred at 4° C. for 1 hour. Then the precipitate was filtered, washed two times each with 10 mL water (5° C.) and dried at 45° C. under vacuum. The reaction yielded 5.17 g (87.6%) of crude 4,5-dihydro-2-(2,4-dihydroxyphenyl)-4-methylthiazole-4(S)-carboxylic acid product. 1H-NMR showed no significant impurity.

reactant | (S)-2-methylcysteine hydrochloride | 23.3 mmol, 4.00 g, 1.0 meq | Cl.C[C@@](N)(CS)C(=O)O
reactant | 2,4-dihydroxy benzonitrile | 23.3 mmol, 3.14 g, 1.0 meq | OC1=C(C#N)C=CC(=C1)O | C7H5NO2
reactant | triethylamine | 48.9 mmol, 6.8 mL, 2.05 meq | C(C)N(CC)CC | C6H15N
reactant | KOH | 1.20 ml | [OH-].[K+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | water | 50 mL | O | H2O
product | 4,5-dihydro-2-(2,4-dihydroxyphenyl)-4-methylthiazole-4(S)-carboxylic acid | 5.17 g, 87.6% | OC1=C(C=CC(=C1)O)C=1SC[C@@](N1)(C(=O)O)C | C11H11NO4S
